US04236004
7,8-dihydro-5-hydroxy-8-isopropyl-2-(methylthio)-7-oxo-pyrido-[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
To a solution of sodium ethoxide (0.9 g. 0.039 g. atom of sodium in 75 ml. of ethanol) was added 6.24 g. (0.03 mole) of diethyl malonate. The ethanol was removed in a rotary evaporator. To the residue was added 100 ml. of dimethyl formamide followed by 3.3 g. (0.013 mole) of 7-methylthio-1-isopropyl-2H-pyrimido[4,5-d][1,3]oxazine-2,4(1H)-dione. The reaction mixture was heated under reflux for 1 hour, cooled in ice and poured into 400 ml. of water. The solution was acidified with conc. hydrochloric acid and the resulting product was collected by suction filtration. Recrystallization from ethanol gave 2 g. of product--m.p. 138°-140° C.

reactant | sodium ethoxide | 75 ml, 0.9 g | [O-]CC.[Na+]
reactant | diethyl malonate | 0.03 mole | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 7-methylthio-1-isopropyl-2H-pyrimido[4,5-d][1,3]oxazine-2,4(1H)-dione | 0.013 mole | CSC=1N=CC2=C(N(C(OC2=O)=O)C(C)C)N1 | C10H11N3O3S
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 7,8-dihydro-5-hydroxy-8-isopropyl-2-(methylthio)-7-oxo-pyrido-[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)SC)N(C1=O)C(C)C)O | C14H17N3O4S
